US07199147B2
To a solution of the 1H-indazol-5-ol (1.60 g, 0.0119 mol) obtained in Reference Example 4 in tetrahydrofuran (50 ml) was added N-chlorosuccinimide (1.59 g, 0.0119 mol) at room temperature. After 1 hour, the mixture thus obtained was heated to 40° C., and after another 2 hour, the mixture was heated to 50° C. After 5 hours, the reaction solution was poured into water (100 ml) and extracted with ethyl acetate (100 ml×3). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 4-chloro-1H-indazol-5-ol (1.7365 g, 86%).

reactant | 1H-indazol-5-ol | 0.0119 mol, 1.60 g | N1N=CC2=CC(=CC=C12)O | C7H6N2O
reactant | N-chlorosuccinimide | 0.0119 mol, 1.59 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-chloro-1H-indazol-5-ol | 1.7365 g, 86% | ClC1=C2C=NNC2=CC=C1O | C7H5ClN2O
